US05359098
A mixture of 2',5'-dihydroxyacetophenone (150 g), 1-bromo-6-chlorohexane (186 g), and potassium carbonate (186 g) in 2500 mL of 2-butanone was refluxed for 16 hours. The solvent was removed in vacuo and the residue was stirred with 1000 mL of methylene chloride. After filtration, the filtrate was washed with 10% KOH (250 mL), water (250 mL), and brine (250 mL). The solution was dried over magnesium sulfate and the solvent was removed to give an oil which solidified overnight to give 210 g of 5'-(6-chlorohexoxy)-2'-hydroxyacetophenone as a yellow solid.

reactant | 2',5'-dihydroxyacetophenone | 150 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 1-bromo-6-chlorohexane | 186 g | BrCCCCCCCl | C6H12BrCl
reactant | potassium carbonate | 186 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 2500 mL | CC(CC)=O | C4H8O
product | 5'-(6-chlorohexoxy)-2'-hydroxyacetophenone | 210 g | ClCCCCCCOC=1C=CC(=C(C1)C(C)=O)O | C14H19ClO3
